US07713957B2
Synthesis of (S)-N-[4-[4-(5H-dibenzo[a,d] [7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-4-oxobutyl] acetamide:
2 ml of 1 N aqueous sodium hydroxide solution, 3 nil of diethyl ether and 2 ml of ethyl acetate were added to 151 mg (0.36 mmol) of (S)-2-amino-5-[4-(5H-dibenzo[a,d] [7]annulen-5-ylidene)-1-piperidinyl]-5-oxo-1-pentanol hydrochloride. 0.04 ml (0.56 mmol) of acetyl chloride was added dropwise to the obtained solution under vigorous stirring, and they were stirred at room temperature for 2 hours. Water was added to the reaction mixture. After extracting with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (chloroform:methanol=200:1 to 50:1) to obtain the title compound.

reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | (S)-2-amino-5-[4-(5H-dibenzo[a,d] [7]annulen-5-ylidene)-1-piperidinyl]-5-oxo-1-pentanol hydrochloride | 0.36 mmol, 151 mg | Cl.N[C@H](CO)CCC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2
reactant | acetyl chloride | 0.56 mmol, 0.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | Water | O | H2O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (S)-N-[4-[4-(5H-dibenzo[a,d] [7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-4-oxobutyl] acetamide | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CC[C@@H](CO)NC(C)=O)=O | C27H30N2O3
